US05473079
A 1 1 three-necked flask is initially charged with 275 g (2.70 mol) of 96% sulfuric acid and subsequently 54.1 g (0.50 mol) of 1,2-phenylenediamine are carefully introduced. 85.5 g (0.70 mol) of benzoic acid are added to the suspension, which at this point has a temperature of about 120° C., and the mixture is heated while stirring (clear solution from about 130° C.) to about 200° C. for 5 hours, during which a small proportion of the benzoic acid sublimes. The mixture is then allowed to cool to about 150° C. and is stirred into 1 l of cold water, which warms to about 65° C. The mixture is stirred for a further hour at 65° C. and the precipitate is then filtered off with suction and washed with water at a temperature of 80° C. until free of sulfate. The dried crude product (83 g) is suspended in 830 ml of water and the pH is adjusted to 8 with 32% sodium hydroxide solution. After addition of 6.5 g of activated carbon the mixture is stirred for a further 30 minutes at room temperature and subsequently clarified by filtration. The filtrate is heated to 80° C. and the pH is adjusted to 3 with concentrated hydrochloric acid. The precipitated Eusolex 232 is filtered off with suction while warm, washed with 2 l of water at a temperature of 90° C. and dried to constant weight in a vacuum drying cabinet at 75° C. and 20 mbar. 67.0 g (245 mmol, 49% of theory) of 2-phenylbenzimidazole-5-sulfonic acid are obtained, 410° C. (decomposition).

reactant | sulfuric acid | 2.70 mol, 275 g | S(O)(O)(=O)=O | H2O4S
reactant | 1,2-phenylenediamine | 0.50 mol, 54.1 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | benzoic acid | 0.70 mol, 85.5 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | water | 1 l | O | H2O
product | 2-phenylbenzimidazole-5-sulfonic acid | 245 mmol, 67.0 g, 49% | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC(=C2)S(=O)(=O)O | C13H10N2O3S
